US04820715
Amino-N-(1-azabicyclo[2.2.2]-oct-3-yl)-5-chloro-2-propargyloxybenzamide
A mixture of 4-amino-N-(1-azabicyclo[2.2.2]-oct-3-yl)-5-chloro-2-hydroxybenzamide (590 mg), potassium carbonate (2.8 g), propargyl bromide (9.3 g of an 80% solution of propargyl bromide in toluene) in DMF (10 mL) was stirred at room temperature for 1 hour. The solid was filtered off, and the filtrate diluted with ether. The resulting precipitate was collected and washed with ether. This solid was dissolved in a small amount of a mixture of acetonitrile, methanol and ammonium hydroxide in the ratio of 100:15:0.5, and flash chromatographed over silica gel eluting with the same solvent system. The appropriate fractions were combined and concentrated. The resulting solid was dried under vacuum to yield the title compound (0.115 g; 17%), m.p. >170° C. decomp.

reactant | 4-amino-N-(1-azabicyclo[2.2.2]-oct-3-yl)-5-chloro-2-hydroxybenzamide | 590 mg | NC1=CC(=C(C(=O)NC2CN3CCC2CC3)C=C1Cl)O | C14H18ClN3O2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Amino-N-(1-azabicyclo[2.2.2]-oct-3-yl)-5-chloro-2-propargyloxybenzamide | 0.115 g, 17% | NC=1C(=C(C(=O)NC2CN3CCC2CC3)C=C(C1)Cl)OCC#C | C17H20ClN3O2
